US04588719
1-Dimethylamino-7-(3-phthalimido)propoxy-3,4-dihydronaphthalene
A solution of titanium tetrachloride (5.4 g) in toluene (20 ml) is added over a period of 15 minutes to a stirred solution of 7-(3-phthalimido)propoxy-1-tetralone (19.9 g) suspended in a solution of anhydrous dimethyl amine (22 g) in dry toluene (200 ml) while maintaining a reaction temperature of about 1° C. under a N2 atmosphere. When the addition is complete, the reaction mixture is allowed to warm to RT and stirred at RT for 41/2 hours. The reaction mixture is filtered, the salts washed with dry toluene and the clear filtrate evaporated, affording a light yellow oil, which is stored under N2 and used in the next step without any further treatment.

reactant | 7-(3-phthalimido)propoxy-1-tetralone | 19.9 g | C1(C=2C(C(N1CCCOC1=CC=C3CCCC(C3=C1)=O)=O)=CC=CC2)=O | C21H19NO4
reactant | dimethyl amine | 22 g | CNC | C2H7N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 5.4 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1-Dimethylamino-7-(3-phthalimido)propoxy-3,4-dihydronaphthalene | CN(C1=CCCC2=CC=C(C=C12)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C23H24N2O3
